US07348339B2
Step 1. 2-Chloro-4-(ethylamino)-5-nitropyridine
A solution of 4-(ethylamino)-2-methoxy-5-nitropyridine (5.0 g, 25.3 mmol) in POCl3 (25 mL) was heated to 100° C. in a sealed tube for 1 week. The reaction mixture was cooled and concentrated and the residue was taken up in EtOAc/H2O and carefully quenched with sat. K2CO3. The aqueous layer was extracted with EtOAc, washed with H2O, dried (MgSO4) and concentrated to give an orange oil which solidified on standing which was used without further purification. MS (ES+) m/e 202 [M+H]+.

reactant | 4-(ethylamino)-2-methoxy-5-nitropyridine | 25.3 mmol, 5.0 g | C(C)NC1=CC(=NC=C1[N+](=O)[O-])OC | C8H11N3O3
reactant | POCl3 | 25 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(ethylamino)-5-nitropyridine | ClC1=NC=C(C(=C1)NCC)[N+](=O)[O-] | C7H8ClN3O2
